US06664247B2
A solution of (5-cyclopropyl-2H-pyrazol-3-yl)-[2-(3-methoxycarbonylphenylsulfanyl)-quinazolin-4-yl]-amine (110 mg, 0.26 mmol) in a mixture of THF/water (1/1, 10 mL) is treated with 1M LiOH (0.75 mL, 0.75 mmol). The mixture is stirred for 20 hours at room temperature and then neutralized with 1M HCl (0.75 mL, 0.75 mmol). A solid forms and is collected by filtration to afford the desired [2-(3-carboxyphenylsulfanyl)-quinazolin-4-yl]-(5-cyclopropyl-2H-pyrazol-3-yl)-amine.

reactant | (5-cyclopropyl-2H-pyrazol-3-yl)-[2-(3-methoxycarbonylphenylsulfanyl)-quinazolin-4-yl]-amine | 0.26 mmol, 110 mg | C1(CC1)C=1C=C(NN1)NC1=NC(=NC2=CC=CC=C12)SC1=CC(=CC=C1)C(=O)OC | C22H19N5O2S
reactant | LiOH | 0.75 mmol, 1M, 0.75 mL | [Li+].[OH-]
reactant | HCl | 0.75 mmol, 1M, 0.75 mL | Cl | ClH
solvent | THF water | 10 mL | C1CCOC1.O
product | [2-(3-carboxyphenylsulfanyl)-quinazolin-4-yl]-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | C(=O)(O)C=1C=C(C=CC1)SC1=NC2=CC=CC=C2C(=N1)NC=1NN=C(C1)C1CC1 | C21H17N5O2S
